US07642264B2
2-Chloro-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from 4-trifluoromethyl-6-(4-trifluoromethylphenyl)-1H-pyridin-2-one (51.5 g, 168 mmol) and phosphoryl chloride (50 mL) according to the general procedure Ia to d preparation of chlorides. Obtained as an off-white solid (53.4 g, 98%). MS (ISN) 384.1 [(M+OAc)−], 386.0 [(M+2+OAc)−]; mp 39-40° C.

reactant | 4-trifluoromethyl-6-(4-trifluoromethylphenyl)-1H-pyridin-2-one | 168 mmol, 51.5 g | FC(C1=CC(NC(=C1)C1=CC=C(C=C1)C(F)(F)F)=O)(F)F | C13H7F6NO
reactant | phosphoryl chloride | 50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClC1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C13H6ClF6N
